data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CC2CCC(=O)C(C2C(=O)C1)C=[O:10].C1=CC=CC=C1>>[H:20][O+:10]=CC1C2C(CCCC2=O)CCC1=O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CC(OC1)(O)[OH:10]>>[H:20][OH+:10]C1(CCCO1)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CC(CCC1C(N(C1=[O:10])C2=CC=CC=C2)C3=CC=CC=C3)O>>[H:20][O+:10]=C1C(C(N1C2=CC=CC=C2)C3=CC=CC=C3)CCC(C)O.[OH2:21] 10=20;20,21=21
[H:20][Br:21].C[CH:10]=[CH:11]C1=CC=CC=C1>>[H:20][CH:10](C)[CH+:11]C1=CC=CC=C1.[Br-:21] 10,11=10,20;20,21=21
C[NH+:21]=[CH:20][S-:10]>>C[NH:21][CH:20]=[S:10] 10=20;20,21=21
[Li+].CCCCI.CC(C)(C)O[C:22](=[O:23])[CH:21]=[CH:20]CCCCI.CC(C)(C)O[C:11](=[CH:10]C1CCCC1)[O-:12]>>[Li+].CCCCI.CC(C)(C)O[C:22](=[CH:21][CH:20](CCCCI)[CH:10](C1CCCC1)[C:11](=[O:12])OC(C)(C)C)[O-:23] 10,11=10,20;12=11;20,21=21,22;22,23=23
[H:20][OH:21].[Li][O:10]C1(CCC2(C1C(CC2)(C)C)C)C#C>>[H:20][O+:10]([Li])C1(CCC2(C1C(CC2)(C)C)C)C#C.[OH-:21] 10=20;20,21=21
C1CC[N+:20](=[CH:21]CCC[N+](=O)[O-])[CH-:10]C1.CC(=O)O.C(=O)=O.O>>C1CC[N+:20](=[CH:10]C1)[CH-:21]CCC[N+](=O)[O-].CC(=O)O.C(=O)=O.O 10=20;20,21=21
CC(C)(C[P:20](=O)(OC)OC)[O-:10]>>CC1(C[P-:20](=O)([O:10]1)(OC)OC)C 10=20,
C[C+:20]=O.C1=C[CH:10]=[C:11](C=C1)Br>>C[C:20](=O)[CH:10]1C=CC=C[C+:11]1Br 10,11=10,20
[H:20][OH2+:21].CCOC(=O)CC(C)(NC)[O-:10]>>[H:20][O:10]C(C)(CC(=O)OCC)NC.[OH2:21] 10=20;20,21=21
COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:20]([C:21](Br)(Br)Br)([O-:10])[O-])OC.O.[Na+].[Br-]>>COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:20](=[O:10])[O-])OC.[C-:21](Br)(Br)Br.O.[Na+].[Br-] 10=20;20,21=21
CCCCC(C(C(=O)O)OC1=CC=CC=C1)O[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[N:11](C(=O)OCC)NC(=O)OCC>>CCCCC(C(C(=O)O)OC1=CC=CC=C1)O[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.CCOC(=O)N[N-:11]C(=O)OCC 10,11=11
[H:20][CH:21]1[C:22](=[O:23])CCCC1(C)O.[OH-:10]>>[H:20][OH:10].CC1(CCC[C:22](=[CH:21]1)[O-:23])O 10=20;22,23=23;20,21=21,22
[H:20]/[C:21](=[CH:22]\[Br:23])/CC1C2C(C(O1)N3C=NC4=C(N=CN=C43)NC5CCCC5)OC(O2)(C)C.CC(C)(C)[O:10][K]>>[H:20][O+:10](C(C)(C)C)[K].CC1(OC2C(OC(C2O1)N3C=NC4=C(N=CN=C43)NC5CCCC5)C[C:21]#[CH:22])C.[Br-:23] 10=20;20,21=21,22;22,23=23
[H:20][O:21]C(=O)C(C1=CC=CC=C1)(C(C(=O)C2=CC=CC=C2)Br)[O-:10].CCCC[N+](CCCC)(CCCC)CCCC>>[H:20][O:10]C(C1=CC=CC=C1)(C(C(=O)C2=CC=CC=C2)Br)C(=O)[O-:21].CCCC[N+](CCCC)(CCCC)CCCC 10=20;20,21=21
C[C+:20](C)OC1CCCC2C1([C:11](=[CH2:10])CC2)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[C:20]1([CH2:10][C+:11]2CCC3C2(C(O1)CCC3)O[Si](C)(C)C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20
[B-:20](F)(F)(F)[F+:21]C1=C2CCC3C(C2=CC=C1OC)CCC4(C3CCC4=O)C.N#N>>[B:20](F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C(C(=CC=C34)OC)[F:21].N#N 20,21=21
[H:20][O:21]C(=O)C.C1CCC(CC1)(NC2=CC=CC=C2)[OH:10]>>[H:20][OH+:10]C1(CCCCC1)NC2=CC=CC=C2.CC(=O)[O-:21] 10=20;20,21=21
[Li:11][C:10]1(SCCCS1)[Si](CC)(CC)CC.CC[Si](CC)(CC)OC(CCOC1=CC=C(C=C1)[N+](=O)[O-])CC2[CH2:20][O:21]2.CC(C)C>>[Li+:11].CC[Si](CC)(CC)[C:10]1(SCCCS1)[CH2:20]C(CC(CCOC2=CC=C(C=C2)[N+](=O)[O-])O[Si](CC)(CC)CC)[O-:21].CC(C)C 10,11=10,20;20,21=21
[H:20][O+:21](C)C12C(CCO1)(C3=C(O2)C=CC=C3)C4=CC=CC=C4.[Br-:10]>>[H:20][Br:10].C[O:21]C12C(CCO1)(C3=C(O2)C=CC=C3)C4=CC=CC=C4 10=20;20,21=21
CC(C1=CC=CC=C1)OC(CCC2=CC=CC=C2)CC(=[O+:11][Si-:10](C)(C)(C)OS(=O)(=O)C(F)(F)F)C3=CC=CC=C3.C[Si](C)(C)O[Si](C)(C)C>>CC(C1=CC=CC=C1)OC(CCC2=CC=CC=C2)CC(=[O:11])C3=CC=CC=C3.C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C 10,11=11
[H:20][O:21]S(=O)(=O)O.C(CC(=[O:10])O)CO>>[H:20][O+:10]=C(CCCO)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C1C2C3C[C:20](O2)([O-:10])[O:21]C3C1I.O>>C1C2C(C[C:20](=[O:10])O2)C(C1I)[O-:21].O 10=20;20,21=21
CCN[C:20](=[OH+:21])C=C.[OH2:10]>>CCN[C:20](C=C)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][CH:21]([CH+:22]C)C(C)O.OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.C[CH:22]=[CH:21]C(C)O 10=20;20,21=21,22
[H:20][S:21]C.C[S-:10]>>[H:20][S:10]C.C[S-:21] 10=20;20,21=21
[H:20][OH2+:21].C1CC2(CCC1C(C3=CC=CC=C3)(C4=CC=CC=C4)O)OCC[O:10]2>>[H:20][O+:10]1CCOC12CCC(CC2)C(C3=CC=CC=C3)(C4=CC=CC=C4)O.[OH2:21] 10=20;20,21=21
CC[NH2:10].CCN(CC)[C:22](=[O:23])[CH:21]=[CH2:20]>>CC[NH2+:10][CH2:20][CH:21]=[C:22](N(CC)CC)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C1C[O:10]1>>[H:20][O+:10]1CC1.[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.COP(=[O:10])(N=[N+]=[N-])OC>>[H:20][O+:10]=P(N=[N+]=[N-])(OC)OC.CC(=O)[O-:21] 10=20;20,21=21
CC[O:10]C(C1=CC=CC=C1)N(CC2=CC=CC=C2)C(=O)OCC.Cl[Sn:20](Cl)(Cl)Cl.C[Si](C)(C)CC#C>>CCOC(=O)N(CC1=CC=CC=C1)C(C2=CC=CC=C2)[O+:10](CC)[Sn-:20](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC#C 10=20,
CC(=O)[O:21][C:20](C=C)(O)[O-:10]>>CC(=O)[O-:21].C=C[C:20](=[O:10])O 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C#N.[N+:20](=O)=[O:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[N+:20](=O)[O-:21])C#N 10,11=10,20;20,21=21
[H:20][CH:21](C)[C+:22](C)C.CC(=[O:10])O.Cl>>[H:20][O+:10]=C(C)O.C[CH:21]=[C:22](C)C.Cl 10=20;20,21=21,22
